************************************************************************
* auCdl Netlist:
* 
* Library Name:  Lab
* Top Cell Name: inv
* View Name:     schematic
* Netlisted on:  Sep  7 15:48:43 2024
************************************************************************
 
*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM
 
 
 
************************************************************************
* Library Name: Lab
* Cell Name:    inv
* View Name:    schematic
************************************************************************
 
.SUBCKT inv gnd in out vdd
*.PININFO in:I vdd:I out:O gnd:B
XM0 out in gnd gnd nsvtlp w=0.7 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM1 out in vdd vdd psvtlp w=1.65 l=0.06 sense=1 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
.ENDS

